US08106091B2
Stage 3—Cyclopentyl N-(tert-butoxycarbonyl)-O-[tert-butyl(dimethyl)silyl]-D-homoserinate
To a solution of N-(tert-butoxycarbonyl)-O-[tert-butyl(dimethyl)silyl]-D-homoserine (2.53 g, 7.6 mmol) in DCM (50 ml) at 0° C. was added cyclopentanol (1.39 ml, 15.3 ml, 2 eq), EDC (1.61 g, 8.4 mmol, 1.1 eq) and DMAP (0.093 g, 0.76 mmol, 0.1 eq). The reaction mixture was stirred for 16 hours at room temperature before evaporation under reduced pressure. The crude residue was dissolved in ethyl acetate (100 ml) and washed with 1M HCl, 1M Na2CO3 and brine. The organic layer was then dried over magnesium sulphate and evaporated under reduced pressure. The product was purified by column chromatography using ethyl acetate/heptane (1:4) to give 2.24 g, 73% yield of title compound.

reactant | N-(tert-butoxycarbonyl)-O-[tert-butyl(dimethyl)silyl]-D-homoserine | 7.6 mmol, 2.53 g | C(C)(C)(C)OC(=O)N[C@H](CCO[Si](C)(C)C(C)(C)C)C(=O)O | C15H31NO5Si
reactant | cyclopentanol | 1.39 ml, 2 eq | C1(CCCC1)O | C5H10O
reactant | EDC | 8.4 mmol, 1.61 g, 1.1 eq
solvent | DCM | 50 ml | C(Cl)Cl | CH2Cl2
catalyst | DMAP | 0.76 mmol, 0.093 g, 0.1 eq | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | ethyl acetate | 100 ml | C(C)(=O)OCC | C4H8O2
product | 3—Cyclopentyl N-(tert-butoxycarbonyl)-O-[tert-butyl(dimethyl)silyl]-D-homoserinate | 2.24 g, 73% yield | C(C)(C)(C)OC(=O)N[C@H](CCO[Si](C)(C)C(C)(C)C)C(=O)OC1CCCC1 | C20H39NO5Si
